US04128650
Potassium borohydride (4.87 g) dissolved in distilled water (58.7 cc) is added to 4,5-dimethoxy-N-phenethyl phthalimide (28 g) suspended in a mixture (180 cc) consisting of equal volumes of dioxan and methanol. The reaction mixture is heated under reflux for 2 hours and then concentrated to a volume of 60 cc and distilled water (450 cc) is added. After cooling, the resulting precipitate is filtered off, washed three times with distilled water (total 1000 cc) and dried under reduced pressure (20 mm Hg) at 25° C. 3-Hydroxy-2-phenethyl-5,6-dimethoxy-2,3-dihydro-1H-isoindol-1-one (27.3 g), melting at 130° C., is thus obtained.

reactant | Potassium borohydride | 4.87 g | [BH4-].[K+]
reactant | 4,5-dimethoxy-N-phenethyl phthalimide | 28 g | COC=1C=C2C(C(=O)N(C2=O)CCC2=CC=CC=C2)=CC1OC | C18H17NO4
reactant | dioxan | O1CCOCC1 | C4H8O2
reactant | methanol | CO | CH4O
solvent | water | 58.7 cc | O | H2O
product | 3-Hydroxy-2-phenethyl-5,6-dimethoxy-2,3-dihydro-1H-isoindol-1-one | 27.3 g | OC1N(C(C2=CC(=C(C=C12)OC)OC)=O)CCC1=CC=CC=C1 | C18H19NO4
